US09388173B2
Step 2: N-((5-bromopyridin-2-yl)methyl)acetamide
To a solution of (5-bromopyridin-2-yl)methanamine (500 mg, 2.67 mmol) in DCM (10 mL) was added Et3N (405 mg, 4.0 mmol) and AcCl (250 mg, 3.18 mmol) at 0° C. The mixture was then warmed to room temperature for 2 h when the reaction was quenched with water and extracted with DCM. The organic layer was concentrated to give the crude product which was used in next step without further purification. (540 mg, Yield 90%). LCMS (m/z): 229.0 (M+1).

reactant | (5-bromopyridin-2-yl)methanamine | 2.67 mmol, 500 mg | BrC=1C=CC(=NC1)CN | C6H7BrN2
reactant | Et3N | 4.0 mmol, 405 mg | CCN(CC)CC | C6H15N
reactant | AcCl | 3.18 mmol, 250 mg | C(=O)(C)Cl | C2H3ClO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-((5-bromopyridin-2-yl)methyl)acetamide | Yield 90% | BrC=1C=CC(=NC1)CNC(C)=O | C8H9BrN2O
